US07348342B2
5-(3-Fluoro-4-methoxyphenyl)-1-(4-methylsulfinylphenyl)-3-trifluoromethyl-1H-pyrazole (Compound No. 44)
To a solution of 5-(3-fluoro-4-methoxyphenyl)-1-(4-methylsulfanylphenyl)-3-trifluoromethyl-1H-pyrazole (compound No. 14) (790 mg) in chloroform (25 mL), m-chloroperbenzoic acid (55-75%, 464 mg) was added in one portion at −40° C. and stirred at the same temperature for one hour. The reaction mixture was diluted with chloroform (50 mL), washed with saturated solution of aqueous sodium bicarbonate (30 mL), water (2×30 mL), dried over calcium chloride and evaporated under reduced pressure. The product obtained was chromatographed over silicagel using 7:3 ethyl acetate: petroleum ether as eluent to afford 600 mg of product as a thick liquid.

reactant | 5-(3-fluoro-4-methoxyphenyl)-1-(4-methylsulfanylphenyl)-3-trifluoromethyl-1H-pyrazole | 790 mg | FC=1C=C(C=CC1OC)C1=CC(=NN1C1=CC=C(C=C1)SC)C(F)(F)F | C18H14F4N2OS
reactant | m-chloroperbenzoic acid | 464 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-(3-Fluoro-4-methoxyphenyl)-1-(4-methylsulfinylphenyl)-3-trifluoromethyl-1H-pyrazole | 600 mg | FC=1C=C(C=CC1OC)C1=CC(=NN1C1=CC=C(C=C1)S(=O)C)C(F)(F)F | C18H14F4N2O2S
